US07262210B2
h. (6-Chloro-3-cyano-5-fluoro-pyridin-2-yl)-acetic acid 4-nitro-phenyl ester
A homogeneous brown solution of (6-chloro-3-cyano-5-fluoro-pyridin-2-yl)-acetic acid (2.37 g, 11.0 mmol), as prepared in the previous step, 4-nitrophenol (1.84 g, 13.2 mmol), and DCM (11 mL) was stirred under argon at 0° C. while 1,3-diisopropylcarbodiimide (DIC) (1.90 mL, 12.1 mmol) was added dropwise with stirring over 3 min. The ice bath was immediately removed following completion of the DIC addition, and the brown mixture with yellowish precipitate was stirred at rt for 1 h 40 min. The crude reaction was then directly loaded onto a flash silica column and eluted with 96:4 toluene/CH3CN to afford the title compound as a translucent pale yellow oil (3.11 g, 84%). 1H-NMR (300 MHz, CDCl3) δ 8.29 (m, 2H), 7.80 (d, 1H), 7.35 (m, 2H), 4.35 (d, 0.7 Hz, 2H).

reactant | (6-chloro-3-cyano-5-fluoro-pyridin-2-yl)-acetic acid | 11.0 mmol, 2.37 g | ClC1=C(C=C(C(=N1)CC(=O)O)C#N)F | C8H4ClFN2O2
reactant | 4-nitrophenol | 13.2 mmol, 1.84 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-diisopropylcarbodiimide | 12.1 mmol, 1.90 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DCM | 11 mL | C(Cl)Cl | CH2Cl2
product | (6-Chloro-3-cyano-5-fluoro-pyridin-2-yl)-acetic acid 4-nitro-phenyl ester | 3.11 g, 84% | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC1=NC(=C(C=C1C#N)F)Cl)=O | C14H7ClFN3O4
